US05763439
Into 40 ml of an absolute methanol solution of 5.3 g of 2-tert-butyl-4-hydroxy-5-nitropyridazin-3-(2H)-one, 0.5 g of palladium-carbon (containing 5% of Pd) was added in a few times at room temperature with stirring. Then, catalytic reduction was carried out overnight under hydrogen gas pressure. After completion of the reaction, the palladium-carbon was separated by filtration with celite and washed a few times with absolute methanol. The methanol was combined with the filtrate, followed by distillation under reduced pressure to obtain 4.4 g of powdery 5-amino-2-tert-butyl-4-hydroxypyridazin-3-(2H)-one.

reactant | 2-tert-butyl-4-hydroxy-5-nitropyridazin-3-(2H)-one | 5.3 g | C(C)(C)(C)N1N=CC(=C(C1=O)O)[N+](=O)[O-] | C8H11N3O4
catalyst | palladium-carbon | 0.5 g | [C].[Pd]
solvent | methanol | 40 ml | CO | CH4O
product | 5-amino-2-tert-butyl-4-hydroxypyridazin-3-(2H)-one | 4.4 g | NC1=C(C(N(N=C1)C(C)(C)C)=O)O | C8H13N3O2
